US09328192B2
To a mixture of 12-Hydroxy stearic acid (450 grams, 1.5 moles), Triethylamine (313 ml, 2.35 moles) in Acetone (1 L) at 10-15° C., was added 4-Nitro Benzoyl Chloride (332 grams, 1.78 moles) and later stirred at room temperature for 10 hours. 75% of the solvent was distilled off. The resulting solution was cooled to room temperature and poured onto cold water. The pH of the solution was adjusted to 4-5 with dilute HCl, and resulting solid was filtered off and washed with chilled water. The solid was converted into slurry with 500 ml diisopropyl ether. The DIPE was filtered off and the resulting solid was dried in vacuum oven at 70-75° C. to yield pure 4-nitrobenzoic acid 11-carboxy-1-hexyl-undecyl ester product as white powder with a melting point of 98-101° C. The resulting compound was characterized by 1H NMR (DMSO-d6) δ 0.85 (t, 3H, CH3), 1.2-1.6 (m, 28H, 14×CH2), 1.8 (m, 2H, CH2), 2.32 (t, 2H, COCH2), 3.2 (m, 1H, CH) 8.1-8.25 (m, 4H, Ar).

reactant | 12-Hydroxy stearic acid | 1.5 moles, 450 grams | OC(CCCCCCCCCCC(=O)O)CCCCCC | C18H36O3
reactant | Triethylamine | 2.35 moles, 313 ml | C(C)N(CC)CC | C6H15N
reactant | 4-Nitro Benzoyl Chloride | 1.78 moles, 332 grams | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | Acetone | 1 L | CC(=O)C | C3H6O
product | 4-nitrobenzoic acid 11-carboxy-1-hexyl-undecyl ester | C(=O)(O)CCCCCCCCCCC(CCCCCC)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C25H39NO6
